### PR TITLE
[Merged by Bors] - feat: `contMDiffOn_iUnion_iff_of_isOpen`

### PR DESCRIPTION
**Pull request by grunweg**
A function is `C^n` on a union of open sets iff it is continuous on each individual set.
The `ContinuousOn` analogue of this is proven in #26672.

Part of the path towards the geodesics and the Levi-Civita connection.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/ContMDiff/Basic.lean [hunk 1]
```diff
@@ -259,6 +259,55 @@ alias contMDiffAt_of_not_mem := contMDiffAt_of_notMem
 alias contMDiffAt_of_not_mem_mulTSupport := contMDiffAt_of_notMem_mulTSupport
 
 
+/-! ### Being `C^k` on a set can be tested in its union -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Geometry/Manifold/ContMDiff/Basic.lean]: What's "its union"?

File: Mathlib/Geometry/Manifold/ContMDiff/Basic.lean [hunk 2]
```diff
@@ -259,6 +259,55 @@ alias contMDiffAt_of_not_mem := contMDiffAt_of_notMem
...
+
+/-- If a function is `C^k` on open sets `s i`, it is `C^k` on their union -/
+lemma ContMDiffOn.iUnion_of_isOpen {ι : Type*} {s : ι → Set M}
+    (hf : ∀ i : ι, ContMDiffOn I I' n f (s i)) (hs : ∀ i, IsOpen (s i)) :
+    ContMDiffOn I I' n f (⋃ i, s i) := by
+  rintro x ⟨si, ⟨i, rfl⟩, hxsi⟩
+  exact (hf i).contMDiffAt ((hs i).mem_nhds hxsi) |>.contMDiffWithinAt
+
+/-- A function is `C^k` on a union of open sets `s i` iff it is `C^k` on each `s i`. -/
+lemma contMDiffOn_iUnion_iff_of_isOpen  {ι : Type*} {s : ι → Set M}
```
Comment (Ruben-VandeVelde) [inline Mathlib/Geometry/Manifold/ContMDiff/Basic.lean:296]:
```suggestion
lemma contMDiffOn_iUnion_iff_of_isOpen {ι : Type*} {s : ι → Set M}
```
(I thought we had a linter for that now)

File: Mathlib/Geometry/Manifold/ContMDiff/Basic.lean [hunk 3]
```diff
@@ -259,6 +259,55 @@ alias contMDiffAt_of_not_mem := contMDiffAt_of_notMem
 alias contMDiffAt_of_not_mem_mulTSupport := contMDiffAt_of_notMem_mulTSupport
 
 
+/-! ### Being `C^k` on a set can be tested in its union -/
+section contMDiff_union
+
+variable {s t : Set M}
+
+/-- If a function is `C^k` on two open sets, it is also `C^n` on their union. -/
+lemma ContMDiffOn.union_of_isOpen (hf : ContMDiffOn I I' n f s) (hf' : ContMDiffOn I I' n f t)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Geometry/Manifold/ContMDiff/Basic.lean:268]: Question for all of those: is `_of_isOpen` needed? Are there other true lemmas you'd confuse them with if you removed the suffix?

**Review by Ruben-VandeVelde — COMMENTED** [review]
maintainer delegate

File: Mathlib/Geometry/Manifold/ContMDiff/Basic.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/ContMDiff/Basic.lean]: Good find; I realised the same mid-way through creating all these PRs and forgot to update this one. Is the following phrasing better?
```suggestion
/-! ### Being `C^k` on a union of open sets can be tested on each set -/

File: Mathlib/Geometry/Manifold/ContMDiff/Basic.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/ContMDiff/Basic.lean:296]: We should have, this is unexpected. CC @adomani

Comment (adomani) [reply Mathlib/Geometry/Manifold/ContMDiff/Basic.lean:296]: I'm surprised by this, but can't investigate right now.  Could it be that the PR is from a relatively old version of mathlib?

Comment (grunweg) [reply Mathlib/Geometry/Manifold/ContMDiff/Basic.lean:296]: Not really: the parent of this commit is `7672327e9c8b73aeb0930dcf8389e1dc0a1a729a`, which landed in mathlib today.

Comment (adomani) [reply Mathlib/Geometry/Manifold/ContMDiff/Basic.lean:296]: Ok, it was just to make sure that the linter was in master and it is.  I don't know: this looks like it should be in scope for the linter.

Comment (adomani) [reply Mathlib/Geometry/Manifold/ContMDiff/Basic.lean:296]: :scream: `lemma` has kind `lemma`, not `declaration`!! So, the linter ignores lemmas... :facepalm:

Comment (adomani) [reply Mathlib/Geometry/Manifold/ContMDiff/Basic.lean:296]: #26706, although I imagine that there will be some fixing to do, before it can be merged.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/ContMDiff/Basic.lean:296]: :scream: Wow, that was a striking bug (which I also missed). Well, I'm glad we found it.
Thanks a lot, Ruben, for reporting it! (And I may look into removing some more spaces :-))

**Comment by sgouezel** [comment]
bors d+

File: Mathlib/Geometry/Manifold/ContMDiff/Basic.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/Geometry/Manifold/ContMDiff/Basic.lean:296]: If you are willing to help with fixing spaces, I'd be very happy to review and merge the PRs!

File: Mathlib/Geometry/Manifold/ContMDiff/Basic.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/ContMDiff/Basic.lean:268]: Good question, I'm honestly not sure.
Given that this lemma has four different cousins with the same issue (ContinuousOn, DifferentiableOn, MDifferentiableOn and ContDiffOn), I'd rather land this PR as-is, being consistent with the others. But feel free to make a PR remaining all these 8 theorems (and I can review that one quickly)!

**Comment by grunweg** [comment]
Thanks for the reviews!
bors merge
